US05849732
(2-Amino-4-methoxy-6-tert-butylphenoxy)methoxymethane, phosgene and L-phenylalanine methyl ester were treated in the same manner as described in Example 16 (1) to give {2-[3-((1S)-1-methoxycarbonyl-2-phenylethyl)ureido]-4-methoxy-6-tert-butylphenoxy}methoxymethane.

reactant | (2-Amino-4-methoxy-6-tert-butylphenoxy)methoxymethane | NC1=C(OCOC)C(=CC(=C1)OC)C(C)(C)C | C13H21NO3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
product | {2-[3-((1S)-1-methoxycarbonyl-2-phenylethyl)ureido]-4-methoxy-6-tert-butylphenoxy}methoxymethane | COC(=O)[C@H](CC1=CC=CC=C1)NC(NC1=C(OCOC)C(=CC(=C1)OC)C(C)(C)C)=O | C24H32N2O6
